US05580865
2-(6-Benzhydryloxy-2-methyl-5-oxo-2,5-dihydro-1,2,4-triazin-3-yl)thio-4-tert-butylcarbonyl-2,3-dimethyl-7α-methoxy-3-cephem 1,1-dioxide (compound 11)
A solution of 2-(6-benzhydryloxy-2-methyl-5-oxo-2,5-dihydro-1,2,4-triazin-3-yl)thio-4-tert-butylcarbonyl-7α-methoxy-3-methyl-3-cephem 1,1-dioxide (550 mg), prepared as described in PTC EP 90/02189 in dimethyl sulphoxide (4 ml) was treated with methyl iodide (0.170 ml) and triethylamine (0.147 ml). After 2 hrs the reaction was diluted with dichloromethane, washed in sequence with hydrochloric acid and brine, and dried Na2SO4. Removal of the solvent and flash chromatography of the crude residue gave the title compound (300 mg) as a yellowish solid.

reactant | 2-(6-benzhydryloxy-2-methyl-5-oxo-2,5-dihydro-1,2,4-triazin-3-yl)thio-4-tert-butylcarbonyl-7α-methoxy-3-methyl-3-cephem 1,1-dioxide | 550 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC=1C(N=C(N(N1)C)SC1S([C@H]2N(C(=C1C)C(=O)C(C)(C)C)C([C@@H]2OC)=O)(=O)=O)=O | C30H32N4O7S2
reactant | methyl iodide | 0.170 ml | CI | CH3I
reactant | triethylamine | 0.147 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulphoxide | 4 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(6-Benzhydryloxy-2-methyl-5-oxo-2,5-dihydro-1,2,4-triazin-3-yl)thio-4-tert-butylcarbonyl-2,3-dimethyl-7α-methoxy-3-cephem 1,1-dioxide | 300 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC=1C(N=C(N(N1)C)SC1(S([C@H]2N(C(=C1C)C(=O)C(C)(C)C)C([C@@H]2OC)=O)(=O)=O)C)=O | C31H34N4O7S2
